US03932429
50.5 g of 4-(3-methoxyphenyl)-4-carbamoyl-cyclohexanone are dissolved in 500 ml of acetic acid, and a solution of 32.7 g of bromine in 500 ml of acetic acid is added dropwise thereto at 20°C. under stirring. Then, the mixture is poured into ice-water and extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. 69.8 g of 2-bromo-4-(3-methoxyphenyl)-4-carbamoyl-cyclohexanone are obtained as crude oil.

reactant | 4-(3-methoxyphenyl)-4-carbamoyl-cyclohexanone | 50.5 g | COC=1C=C(C=CC1)C1(CCC(CC1)=O)C(N)=O | C14H17NO3
reactant | bromine | 32.7 g | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4-(3-methoxyphenyl)-4-carbamoyl-cyclohexanone | 69.8 g | BrC1C(CCC(C1)(C(N)=O)C1=CC(=CC=C1)OC)=O | C14H16BrNO3
